US07932242B2
(E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenyl dihydrogen phosphate
To a stirred solution of 5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxy-phenyl dibenzyl phosphate (4.36 g, 6.7 mmol) in anhydrous DCM (40 mL) under nitrogen at 0° C. was added bromotrimethylsilane (2.14 g, 2.1 eq). The resulting mixture was stirred for 45 minutes and monitored by TLC. sodium When the reaction was complete, aqueous sodium thiosulfate (1%, 50 mL) was added and the resulting mixture was stirred for an additional 5 minutes. The organic phase was separated and the aqueous phase was extracted with ethyl acetate (3×25 mL). The combined organic extract was concentrated in vacuo to afford the crude 5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenyl dihydrogen phosphate. The product was purified column chromatography on silica eluted with a methanol/chloroform gradient to yield 1.4 g of the purified product having a melting point of 202-205° C.

reactant | 5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxy-phenyl dibenzyl phosphate | 6.7 mmol, 4.36 g | P(=O)(OC1=C(C=CC(=C1)CS(=O)(=O)C=CC1=C(C=C(C=C1OC)OC)OC)OC)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C33H35O10PS
reactant | bromotrimethylsilane | 2.14 g, 2.1 eq | Br[Si](C)(C)C | C3H9BrSi
reactant | sodium | [Na] | Na
reactant | sodium thiosulfate | 50 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (E)-5-((2,4,6-trimethoxystyrylsulfonyl)methyl)-2-methoxyphenyl dihydrogen phosphate | 1.4 g | P(=O)(OC1=C(C=CC(=C1)CS(=O)(=O)\C=C\C1=C(C=C(C=C1OC)OC)OC)OC)(O)O | C19H23O10PS
